US07262212B2
2-Chloro-4-nitro-1H-imidazole (600 g, 4.07 mol) and (R)-2-methyloxiran-2-ylmethyl 4-nitrobenzoate (1060 g, 4.47 mol) were dissolved in ethyl acetate (2124 ml), triethylamine (113.64 ml, 0.82 mol) was added to the solution, and the resulting mixture was stirred under reflux for 16 hours. The reaction mixture was concentrated under reduced pressure, and ethyl acetate (530 ml) and toluene (5300 ml) were added to the residue. The resulting precipitates were filtered off and dissolved in methanol (10.6 1). Potassium carbonate (55.4 g, 0.4 mol) was added to the solution, the resulting mixture was stirred at room temperature for 1 hour, concentrated hydrochloric acid (66 ml) and magnesium sulfate (671 g) were added in this order with cooling on ice-bath, and the resulting mixture was stirred for 30 minutes. Insoluble matters were removed by filtration, and the filtrate was concentrated under reduced pressure. To the residue, ethyl acetate (530 ml) and toluene (5300 ml) were added. The resulting precipitates were filtered off and dried at 50° C. to afford (R)-2-chloro-1-(2,3-dihydroxy-2-methylpropyl)-4-nitroimidazole (879.1 g, yield 92%) as a light brown powder.

reactant | 2-Chloro-4-nitro-1H-imidazole | 4.07 mol, 600 g | ClC=1NC=C(N1)[N+](=O)[O-] | C3H2ClN3O2
reactant | (R)-2-methyloxiran-2-ylmethyl 4-nitrobenzoate | 4.47 mol, 1060 g | [N+](=O)([O-])C1=CC=C(C(=O)OC[C@@]2(OC2)C)C=C1 | C11H11NO5
reactant | triethylamine | 0.82 mol, 113.64 ml | C(C)N(CC)CC | C6H15N
reactant | Potassium carbonate | 0.4 mol, 55.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 66 ml | Cl | ClH
reactant | magnesium sulfate | 671 g | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | ethyl acetate | 2124 ml | C(C)(=O)OCC | C4H8O2
product | (R)-2-chloro-1-(2,3-dihydroxy-2-methylpropyl)-4-nitroimidazole | 879.1 g, yield 92% | ClC=1N(C=C(N1)[N+](=O)[O-])C[C@@](CO)(C)O | C7H10ClN3O4
